* Z:\mnt\design.r\spice\examples\3106.asc
XU1 MP_01 OUT N004 N005 N005 0 NC_02 N005 NC_03 NC_04 IN N005 IN N003 0 IN N002 N001 N003 N003 LTC3106
L1 N001 N002 10µ Rser=5m
C1 N004 0 2.2µ
C2 OUT 0 47µ Rser=10m
C4 N003 0 1µ
R1 OUT 0 66
V1 IN 0 3.5
V3 N003 0 3.6
.tran .5m startup
.lib LTC3106.sub
.backanno
.end
